US07468367B2
Description 1: [2-(6,7-Difluoro-quinoxalin-2-ylamino)-ethyl]-methyl-carbamic acid dimethyl-ethyl ester
A mixture of (2-amino-ethyl)-methyl-carbamic acid dimethyl-ethyl ester (1.01 g, 5.8 mmol), 2-chloro-6,7-difluoro-quinoxaline (1.00 g, 5.8 mmol) and N,N-diisopropylethylamine (3.02 ml, 17.4 mmol) in xylene (10 ml) was heated under argon at 80° C. for 18 h. The cooled reaction mixture was partitioned between ethyl acetate and water. The organic phase was washed with water, brine, dried (MgSO4) and the solvent removed in vacuo. The residue was triturated with diethyl ether/pentane to afford the title compound as a pale orange solid.

reactant | (2-amino-ethyl)-methyl-carbamic acid dimethyl-ethyl ester | 5.8 mmol, 1.01 g | CC(C)(C)OC(N(C)CCN)=O | C8H18N2O2
reactant | 2-chloro-6,7-difluoro-quinoxaline | 5.8 mmol, 1.00 g | ClC1=NC2=CC(=C(C=C2N=C1)F)F | C8H3ClF2N2
reactant | N,N-diisopropylethylamine | 17.4 mmol, 3.02 ml | C(C)(C)N(C(C)C)CC | C8H19N
solvent | xylene | 10 ml | C=1(C(=CC=CC1)C)C | C8H10
product | [2-(6,7-Difluoro-quinoxalin-2-ylamino)-ethyl]-methyl-carbamic acid dimethyl-ethyl ester | CC(C)(C)OC(N(C)CCNC1=NC2=CC(=C(C=C2N=C1)F)F)=O | C16H20F2N4O2
